US05238942
STEP 3: 6-(2-Pyridyl)-2-propyl-3-[(2'-(t-butylsulphonamido)biphen-4-yl)methyl]-quinazolin-4(3H)-one
A solution of 0.5 g (0.8 mmol) of 6-iodo-2-propyl-3-[(2'-(t-butylsulphonamido)biphen-4-yl)methyl]-quinazolin-4(3H)-one in 3 mL of dry DMF under nitrogen was treated with 0.24 g (1.1 mmol) of 2-trimethylstannylpyridine and 10 mg (0.01 mmol) bis(triphenylphophine)palladium dichloride. The solution was heated at 80°-90° C. for 2 hours to give a black solution. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography over silica gel eluting with 40% EtOAc/hexanes to give the title compound. 1H-NMR (CDCl3, 200 MHz): δ0.98 (s, 9H), 1.06 (t, 3H,), 1.78 (m, 2H), 2.76 (t, 2H,), 5.49 (bs, 2H), 7.29 (m, 7H), 8.50 (m, 8H), 7.75-7.91 (m, 2H), .8.15 (dd,1H), 8.57 (dd, 1H), 8.71 (dm, 1H), 8.82 (d, 1H).

reactant | 6-iodo-2-propyl-3-[(2'-(t-butylsulphonamido)biphen-4-yl)methyl]-quinazolin-4(3H)-one | 0.8 mmol, 0.5 g | IC=1C=C2C(N(C(=NC2=CC1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(C)(C)C)=O | C28H30IN3O3S
reactant | 2-trimethylstannylpyridine | 1.1 mmol, 0.24 g | C[Sn](C1=NC=CC=C1)(C)C
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphophine)palladium dichloride | 0.01 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(2-Pyridyl)-2-propyl-3-[(2'-(t-butylsulphonamido)biphen-4-yl)methyl]-quinazolin-4(3H)-one | N1=C(C=CC=C1)C=1C=C2C(N(C(=NC2=CC1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(C)(C)C)=O | C33H34N4O3S
